US04207413
A vigorously stirred mixture of 2,5-O-methylene-L-mannitol (8.0 g.), benzyl chloride (80.0 ml.), and powdered potassium hydroxide (40.0 g.) was slowly heated to 115°-125° and kept in this temperature range for six hours. The mixture was then cooled, water (200 ml.) added, and the mixture was steam distilled for 5 hours. The solution was then cooled, the organic layer (lower) separated in a separatory funnel and the aqueous layer extracted with three 100 ml. portions of ether which were then added to the organic layer. The combined organic layer was then extracted with three 100 ml. portions of water, dried over magnesium sulfate, and evaporated under reduced pressure to a syrup. The syrup was dissolved in methanol (35 ml.) and the solution cooled in an ice bath. Water was added until turbidity persisted and the solution was left to stand at 5° overnight. The crystalline product was removed by filtration, dissolved in isopropyl ether to which was added some methanol, and the resultant solution cooled at 5° while crystallization progressed. The filtered crystals were washed with a solution of pentane-isopropyl ether (1:2, v/v) and air dried to give pure 1,3,4,6-tetra-O-benzyl-2,5-O-methylene-L-mannitol (16.2 g. 71%) having m.p. 53°-54°, and [α]D +6.4° (c 1.09, chloroform) as compared with m.p. 55°-56°, and [α]D -6.6° (c 1.02, chloroform) which were found for the D-isomer.

reactant | 2,5-O-methylene-L-mannitol | 8.0 g | C1[C@@](CO)(O)[C@H](O)[C@@H](O)[C@@H](O1)CO | C7H14O6
reactant | benzyl chloride | 80.0 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium hydroxide | 40.0 g | [OH-].[K+]
solvent | water | 200 ml | O | H2O
product | 1,3,4,6-tetra-O-benzyl-2,5-O-methylene-L-mannitol | 16.2 g, 71% | C(C1=CC=CC=C1)OC[C@]1(O)[C@H](OCC2=CC=CC=C2)[C@@H](OCC2=CC=CC=C2)[C@@H](OC1)COCC1=CC=CC=C1 | C35H38O6
